US03987039
To a solution of diphenylmethyl 3-methoxyiminomethyl- 7-(2-thienylacetamido)-3 -cephem-4-carboxylate (887 mg) in benzene (48 ml) are added pyridine (0.26 ml) and phosphorous pentachloride (676 mg) in benzene (48 ml), and the mixture is stirred for 90 minutes. The mixture is diluted with methanol (96 ml), stirred for 2.5 hours, diluted with water (9.6 ml), stirred for 20 minutes, and evaporated at a temperature lower than 40° C. The residue is dissolved in ethyl acetate, washed with water, aqueous sodium hydrogen carbonate and water, dried and evaporated. The residue crystallizes from a mixture of ether and petroleum ether to give diphenylmethyl 3-methoxyiminomethyl-7 -amino-3 -cephem-4-carboxylate (639 mg; 94.2%). m.p. 135°-145° C.

reactant | diphenylmethyl 3-methoxyiminomethyl- 7-(2-thienylacetamido)-3 -cephem-4-carboxylate | 887 mg | CON=CC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2NC(CC=2SC=CC2)=O)=O | C28H25N3O5S2
reactant | pyridine | 0.26 ml | N1=CC=CC=C1 | C5H5N
reactant | phosphorous pentachloride | 676 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | benzene | 48 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 48 ml | C1=CC=CC=C1 | C6H6
solvent | methanol | 96 ml | CO | CH4O
solvent | water | 9.6 ml | O | H2O
product | diphenylmethyl 3-methoxyiminomethyl-7 -amino-3 -cephem-4-carboxylate | 639 mg, 94.2% | CON=CC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2N)=O | C22H21N3O4S
